US05599829
A mixture of 2,6-dimethylphenyl-isothiocyanate (16.3 g), glycinamide hydrochloride (11.05 g), triethyl amine (12.0 g), and chloroform (250 mL) was heated at reflux for 3 hours. The solvent was evaporated. The residue was dissolved in ethyl acetate (500 mL) and washed with 1N HC1 (300 mL) then with water (300 mL). The organic phase was evaporated to dryness, then the residue was stirred with diethyl ether. The solid was collected by filtration and dried to afford 2-[3-(2,6-dimethylphenyl)-thioureido]-acetamide as a solid (18.3 g). Mass spectrum (El, M.+) m/z 237. This compound was used without further purification in the preparation of the title compound.

reactant | 2,6-dimethylphenyl-isothiocyanate | 16.3 g | CC1=C(C(=CC=C1)C)N=C=S | C9H9NS
reactant | glycinamide hydrochloride | 11.05 g | Cl.NCC(=O)N
reactant | triethyl amine | 12.0 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(2,6-dimethylphenyl)-thioureido]-acetamide | 18.3 g | CC1=C(C(=CC=C1)C)NC(NCC(=O)N)=S | C11H15N3OS
